US07994196B2
4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxypiperidine (ACROS Co., 2.0 g) was dissolved in methylene chloride (10 ml), and pyridine (0.6 ml) and ethyl chloroformate (0.8 ml) were added thereto. The mixture was stirred at room temperature for 5 hr. After completion of the reaction, the reaction mixture was concentrated. The obtained residue was purified by silica gel column chromatography (elution solvent: hexane-ethyl acetate (1:2)) to give 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid ethyl ester (2.03 g, yield 81%).

reactant | 4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxypiperidine | 2.0 g | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.8 ml | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid ethyl ester | 2.03 g, yield 81% | C(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H17ClF3NO3
